US04738970
1.5 Grams of 2-mercaptoimidazo[4,5-b]pyridine was dissolved in 50 ml of dimethylformamide, to this solution was added, under ice-cooled condition, 0.88 g of 60% sodium hydride (in oil), and the mixture was stirred at the same temperature for 30 minutes. Then, to this reaction mixture was added 2.2 g of 2-chloromethyl-3,5-dimethyl-4-methoxypyridine hydrochloride and the whole mixture was heated at 70° to 80° C. under stirring condition for 3 hours. After the reaction was completed, dimethylformamide was removed by evaporation, and to the residue thus obtained was added water, and then extracted with chloroform. The chloroform extract was washed with water, and dried with anhydrous magnesium sulfate. Chloroform was removed by evaporation, then the residue thus obtained was recrystallized from ethanol to obtain 1.3 g of 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]-imidazo[4,5-b]pyridine in the form of white powdery crystals. Melting point: 186°-188° C.

reactant | 2-mercaptoimidazo[4,5-b]pyridine | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | 2-chloromethyl-3,5-dimethyl-4-methoxypyridine hydrochloride | 2.2 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[(3,5-dimethyl-4-methoxy-2-pyridyl)methylthio]-imidazo[4,5-b]pyridine | 1.3 g | CC=1C(=NC=C(C1OC)C)CSC=1NC=2C(=NC=CC2)N1 | C15H16N4OS
